US06878700B1
2,3-Dichloro-4-(2-methoxyphenylthio)-benzaldehyde
2,3-Dichloro-4-trifluoromethanesufonyloxy-benzaldehyde (2.50 g) was dissolved in 6 mL acetonitrile. 2-Methoxybenzenethiol (2.55 g of 70% pure material, 50% excess) was added. With cooling 2.50 g diisopropylethylamine was added slowly. The solution was removed from the ice bath, whereon a solid formed. The solution was warmed in a 50 C waterbath for 5 minutes. More acetonitrile (5 mL) was added and the mixture was cooled in ice, and then filtered to get 2.047 g of product, m.p. 137-139C.

reactant | 2,3-Dichloro-4-trifluoromethanesufonyloxy-benzaldehyde | 2.50 g | ClC1=C(C=O)C=CC(=C1Cl)OS(=O)(=O)C(F)(F)F | C8H3Cl2F3O4S
reactant | 2-Methoxybenzenethiol | 2.55 g | COC1=C(C=CC=C1)S | C7H8OS
reactant | diisopropylethylamine | 2.50 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 2,3-Dichloro-4-(2-methoxyphenylthio)-benzaldehyde | 2.047 g | ClC1=C(C=O)C=CC(=C1Cl)SC1=C(C=CC=C1)OC | C14H10Cl2O2S
